US07906541B2
Stage A: Preparation of 3-methyl-9-(4-nitrobenzyl)[1,3]thiazolo[3,2-a]benzimidazol-9-ium chloride
204 mg of 3-methyl[1,3]thiazolo[3,2-a]benzimidazole were solubilised in acetone (3 mL). Then 558 mg (3 eq) of 4-nitrobenzyl chloride were added and the solution stirred under reflux. After 18 h, 3-methyl-9-(4-nitrobenzyl)[1,3]thiazolo[3,2-a]benzimidazol-9-ium chloride was recovered as a pale yellow powder (363 mg, 94%) by filtration. Mp 241° C.; 1H NMR (300 MHz, MeOD) δ=2.95 (3H, d, J=1.3, CH3), 5.97 (2H, s, CH2), 7.30 (1H, q, J=1.3, H5), 7.68-7.82 (4H, m, Ar), 7.96-8.03 (1H, m, Ar), 8.27-8.36 (3H, m, Ar); 13C NMR (75 MHz, MeOD) δ=14.11, 50.56, 112.76, 113.82, 115.08, 125.37 (2C), 126.63, 128.64, 129.12, 131.04 (2C), 135.43, 137.72, 140.44, 149.92, 156.37; HRMS m/z C17H14N3O2S [M−Cl]− calcd: 324.0801, found: 324.0802.

reactant | 3-methyl[1,3]thiazolo[3,2-a]benzimidazole | 204 mg | CC1=CSC2=NC3=C(N21)C=CC=C3 | C10H8N2S
reactant | 4-nitrobenzyl chloride | 558 mg, 3 eq | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 3-methyl-9-(4-nitrobenzyl)[1,3]thiazolo[3,2-a]benzimidazol-9-ium chloride | [Cl-].CC1=CSC2=[N+](C3=C(N21)C=CC=C3)CC3=CC=C(C=C3)[N+](=O)[O-] | InChI=1S/C17H14N3O2S.ClH/c1-12-11-23-17-18(15-4-2-3-5-16(15)19(12)17)10-13-6-8-14(9-7-13)20(21)22;/h2-9,11H,10H2,1H3;1H/q+1;/p-1
